US05132310
rac-2-[(5-Butyl-2-thienyl)ethynyl]-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol.
rac-3,4-Dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol, 2.3 g (10 mmol) was reacted with 2.4 g (11 mmol) of 2-bromo-5-butylthiophene under the conditions described in Example 15. Chromatography of the crude product over 100 g of silica gel and crystallization from petroleum ether yielded colorless crystals with m.p. 80°-82°.

reactant | rac-3,4-Dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | C(#C)C1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H18O2
reactant | 2-bromo-5-butylthiophene | 11 mmol, 2.4 g | BrC=1SC(=CC1)CCCC | C8H11BrS
product | rac-2-[(5-Butyl-2-thienyl)ethynyl]-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | C(CCC)C1=CC=C(S1)C#CC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C23H28O2S
